US05312824
A solution of 2-[(4-methoxy-3-methyl-2-pyridyl) methylthio]benzimidazole (16.6 g) in 47% aqueous solution of HBr (250 ml) was heated for 24 hours under reflux. The reaction mixture was concentrated under reduced pressure. The concentrate was neutralized with a saturated aqueous solution of sodium hydrogencarbonate. The oily portion was separated and subjected to a silica gel column chromatography, eluting with chloroform-methanol (25:2, v/v), to give 2-[(4-hydroxy-3-methyl-2-pyridyl)methylthio]benzimidazole (10.8 g) as colorless powder. 1H-NMR(δ ppm in CDCl3): 2.12(3H,s), 4.38(2H,s), 6.43(1H,d,J=7Hz), 7.1-7.3(2H,m), 7.4-7.6(3H,m)

reactant | 2-[(4-methoxy-3-methyl-2-pyridyl) methylthio]benzimidazole | 16.6 g | COC1=C(C(=NC=C1)CSC=1NC2=C(N1)C=CC=C2)C | C15H15N3OS
solvent | HBr | 250 ml | Br | BrH
product | 2-[(4-hydroxy-3-methyl-2-pyridyl)methylthio]benzimidazole | 10.8 g | OC1=C(C(=NC=C1)CSC=1NC2=C(N1)C=CC=C2)C | C14H13N3OS
